US05374638
Step A: Preparation of methyl 2-(2,6-dimethyl-4-formylphenoxy)-2-(3-chlorophenyl)acetate
To a solution of 1.260 g (4.80 mmol) of methyl α-bromo-(3-chlorophenyl)acetate and 0.600 g (4.00 mmol) of 3,5-dimethyl-4-hydroxybenzaldehyde in 16 mL acetone was added 1.10 g (8.00 mmol) of potassium carbonate and the resulting mixture was stirred and heated at reflux for 3.5 hours. The reaction mixture was cooled to room temperature, filtered and concentrated in vacuo. The residue was purified on a silica gel flash chromatography column eluted with 30% EtOAc-hexane. The purified fractions were combined, evaporated and dried in vacuo to afford 1.260 g (95%) of the title compound.

reactant | methyl α-bromo-(3-chlorophenyl)acetate | 4.80 mmol, 1.260 g | BrC(C(=O)OC)C1=CC(=CC=C1)Cl | C9H8BrClO2
reactant | 3,5-dimethyl-4-hydroxybenzaldehyde | 4.00 mmol, 0.600 g | CC=1C=C(C=O)C=C(C1O)C | C9H10O2
reactant | potassium carbonate | 8.00 mmol, 1.10 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 16 mL | CC(=O)C | C3H6O
product | methyl 2-(2,6-dimethyl-4-formylphenoxy)-2-(3-chlorophenyl)acetate | 1.260 g, 95% | CC1=C(OC(C(=O)OC)C2=CC(=CC=C2)Cl)C(=CC(=C1)C=O)C | C18H17ClO4
